Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Morphine / Latex
 
Attending: ___.
 
Chief Complaint:
Pain crisis
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with SCD, frequent hospitalizations around the ___ with 
pain crisis, history of asthma, PE, CVA ___ with associated 
seizure disorder, acute chest syndrome with intubation last 
year, depression/suicidality currently hospitalized at ___ 
___ who is transfered from ___ with c/w sickle 
cell crisis, body pain.  
.
Pt states she is hositalized every ___ months with pain crisis. 
She takes ibuprofen and tylenol for pain at home and will 
present to the hospital for IV dilauded when her pain is severe. 
Currently rates pain s ___. Asking for 2mg IV dilaudid Q3 
with IV benadryl for the associated pruritis. Stated pain 
started 2 days PTA and is worse in chest and back, but is also 
"all over."  
.  
ROS: Pan positive, reports headache, low grade fevers, chills, 
nausea with vomiting at OSH, mild SOB, chest discomfort, 
abdominal pain, diarrhea x ___ days, 5X loose BM per day, mild 
dysuria x 1 day, + "a little" depressed, denies SI, able to 
contract for safety.  
.  
At ___ ED VS: T 36 HR 118 RR 20 BP 118/57 Wt 46Kg. Pt had been 
transfered from OSH to that ED, had per report already received 
IV dilauded x3, benadryl and 02. At ___ labs:  HCT 30.7, WBC 
7.9, Plt 329, Creat .35, lytes WNL, AST/ALT 86/66 Alk phos 329. 
UA negative. HCT negative. Transfered to ___ for improved 
continuity of care. Prior to transfer she received 100mg 
dilantin.  

 
Past Medical History:
-SCD (HbSS, frequent hospitalizations and multiple different 
hospitals, last here in ___  
-Acute chest syndrome necessitating intubation ___  
-PE ___ (treated at ___, poor compliance with anticoagulation)  

-? CVA ___ (per report history of intermittent left sided 
weakness, no documentation of this at ___ or ___  
-? Seizure d/o (diagnosed in ___ after episode of shaking motions 
after a fall)  
-s/p CCY  
-Frequent transfusions  
-Reported history of HCV from ___ years ago, HCV antibody negative 
___  
-PTSD, s/p sexual assault  
-Depression with hx suicidality, hospitalized at ___ 
___  
-asthma  
-? clitorectomy at age ___ in ___.  

 
Social History:
___
Family History:
Breast cancer
DM
SCD
CAD
 
Physical Exam:
Vitals: T:98  BP:84/40  P:96  R:18  SaO2:97% RA  111.4 lbs
General: Awake, uncomfortable. Young, thin ___ woman, mild 
distress.  
HEENT: Muddy sclera, no icterus, conjunctiva pale, MMM, no PO 
lesions.
Neck: supple, no significant JVD or carotid bruits appreciated  
Pulmonary: Lungs CTA bilaterally, no wheezes, ronchi or rales
Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated
Abdomen: soft, diffusely tender to light touch and palpation.  
Did not tolerate much palpation, more tender in upper quadrants, 
no hepatomegaly by percussion or scratch, unable to appreciate 
splenomegaly but exam limited. Bowel sounds present. 
Extremities: No edema, bounding peripheral pulses, thin, slight 
swelling over medial left ankle, exquisitely tender, no heat or 
erythema.  
Lymphatics: No cervical, supraclavicular, axillary or inguinal 
lymphadenopathy noted
Skin: no rashes or lesions noted.  
Neurologic: Alert, oriented x 3. Able to relate history without 
difficulty. Cranial nerves II-XII intact. Normal bulk, strength 
and tone throughout. 
 
Pertinent Results:
LABORATORIES ON ADMISSION:
___ WBC-9.4 (NEUTS-42.8 BANDS-0 ___ MONOS-4.9 
EOS-3.4 BASOS-0.5) HGB-8.7 HCT-25.2 PLT COUNT-333
Peripheral smear: HYPOCHROM-OCCASIONAL ANISOCYT-2+ POIKILOCY-2+ 
MACROCYT-2+ MICROCYT-NORMAL POLYCHROM-NORMAL SICKLE-2+
___  SODIUM-138 POTASSIUM-TOTAL CO2-284.3 CHLORIDE-107 UREA 
N-4 CREAT-0.3 GLUCOSE-108 CALCIUM-8.7 PHOSPHATE-4.3 
MAGNESIUM-1.8
___ PHENYTOIN-2.2
___ TSH-1.3
___ HAPTOGLOB-LESS THAN 20
___ 10:00PM   LIPASE-17
___ ALT(SGPT)-87 AST(SGOT)-107 LD(LDH)-480 ALK PHOS-278 TOT 
BILI-0.9 
.
OTHER LABORATORIES
___  Retic count 15.8  
___  Phenytoin 2.2
___ HEPATITIS C SEROLOGY NEGATIVE
.
LABORATORIES UPON DISCHARGE
___ WBC-10.3 HGB-7.4 HCT-22.3 PLT COUNT-168
___  SODIUM-141 POTASSIUM- 4.3 TOTAL CO2-26 CHLORIDE-110 
UREA N-2 CREAT-0.2 GLUCOSE-80
___ ALT(SGPT)-41 AST(SGOT)-66 LD(___)-545 ALK PHOS-236 
AMYLASE-37 TOT BILI-1.1 ALBUMIN-3.8 
.
IMAGING
CHEST (PORTABLE AP)  ___ FRONTAL CHEST RADIOGRAPH: 
Right-sided port is seen in unchanged position. The 
cardiomediastinal silhouette is within normal limits. The 
pulmonary vasculature is normal. The lungs are clear without 
focal consolidation, pneumothorax, or pleural 
effusion.IMPRESSION: No acute cardiopulmonary abnormality.
.
MRA NECK W/O CONTRAST  ___
MR OF THE BRAIN WITHOUT IV GADOLINIUM: The diffusion-weighted 
images are unremarkable without evidence of acute infarction. 
There is no shift of normally midline structures, mass effect, 
hydrocephalus, or evidence of hemorrhage. The normal gray and 
white matter signal characteristics are preserved. Diffuse low 
T1 signal of the bone marrow is noted.
TIME-OF-FLIGHT MR ANGIOGRAM OF THE BRAIN AND CIRCLE OF ___: 
The anterior and posterior circulations and circle of ___ are 
patent without evidence of aneurysm, dissection, vascular 
malformation, or hemodynamically significant stenosis.
TIME-OF-FLIGHT MR ANGIOGRAM OF THE NECK: The carotid and 
vertebral circulations are patent without evidence of aneurysm, 
dissection, vascular malformation, or hemodynamically 
significant stenosis.
IMPRESSION:
1. No evidence of acute infarction.
2. Normal MR angiogram of the brain, circle of ___, and neck.
3. Diffuse low T1 signal of bone marrow may be related to 
patient age or possibly history of sickle cell disease.
.
CT HEAD W/O CONTRAST  ___ 
No acute transcortical infarction or acute hemorrhage is seen. 
There is no evidence of hydrocephalus.  Visualized paranasal 
sinuses and mastoid air cells are clear.
IMPRESSION: No evidence for acute ischemia. MRI with 
diffusion-weighted imaging would be more sensitive for detection 
of acute ischemic changes.
.
CHEST (PA & LAT)  ___
FINDINGS: In the interim, the pulmonary vascular plethora is 
less prominent in both lungs.No focal infiltrate is seen in 
either lungs. The heart size is at the upper limit of normal and 
stable. No pleural effusion is noted. The bones are unremarkable 
on this chest radiograph. Below the diaphragm, the bowel loops 
are seen along the lateral abdominal cavity indicating a small 
spleen.
IMPRESSION:
1. Improvement in the pulmonary vascular plethora which could be 
secondary to improvement in volume overload.
2. No focal infiltrate worrisome for pneumonia is noted.
3. Heart size is at the upper limit of normal.
.
CHEST (PORTABLE AP)  ___
FINDINGS: In comparison with study of ___, the cardiac 
silhouette is now within normal limits, as are the pulmonary 
vessels. No evidence of acute pneumonia. Port-A-Cath remains in 
place. 
IMPRESSION: Essentially within normal limits at this time.
.
MICROBIOLOGY

___ Line-portacath BLOOD CULTURE -PENDING 
___ Line-portacath BLOOD CULTURE (Aerobic and Anaerobic 
Bottle) -PRELIMINARY {STAPHYLOCOCCUS, COAGULASE NEGATIVE}; 
SENSITIVITIES: MIC in MCG/ML                      
_______________________________________________________
                             STAPHYLOCOCCUS, COAGULASE NEGATIVE
                             |   
ERYTHROMYCIN----------       R
GENTAMICIN------------       S
LEVOFLOXACIN----------       S
OXACILLIN-------------       R
RIFAMPIN--------------       S
TETRACYCLINE----------       S
VANCOMYCIN------------       S

___  Line-portacath BLOOD CULTURE -PENDING; NO GROWTH TO 
DATE 
___  Line-portacath vs. peripheral blood cultures 
(unknown source) BLOOD CULTURE -PENDING; NO GROWTH TO DATE 
___  Line-portacath BLOOD CULTURE -PENDING; NO GROWTH TO 
DATE 
___  Line-portacath BLOOD CULTURE -FINAL NO GROWTH
___  Peripheral venous BLOOD CULTURE -FINAL NO GROWTH
___  Line-portacath BLOOD CULTURE (Aerobic and Anaerobic 
Bottle)-FINAL {STAPHYLOCOCCUS, COAGULASE NEGATIVE, 
STAPHYLOCOCCUS, COAGULASE NEGATIVE
SENSITIVITIES: MIC expressed in MCG/ML                     
_________________________________________________________
                             STAPHYLOCOCCUS, COAGULASE NEGATIVE
                             |   
CLINDAMYCIN-----------   =>8 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------     4 R
OXACILLIN-------------   =>4 R
PENICILLIN G---------- =>0.5 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
VANCOMYCIN------------     2 S

 
Brief Hospital Course:
1. Sickle cell disease/pain crisis
The patient presented with diffuse body pain, including all of 
her joints and her chest, most markedly.  Workup for acute chest 
syndrome was negative on 3 occasions (see above CXR reports).  
The patient was not transfused as she mainted her HCT >21.  
Hemolysis labs showed she was hemolyzing (retic count ~15, 
haptoglobin <20) with sickle cells evident on the peripheral 
smear.  She was aggressively hydrated with 200 cc/hour to 
150cc/hour for ___ days; her pain was initially controlled on IV 
dilaudid but she was switched to oral dilaudid with adequate 
pain control approximately 4 days prior to discharge.  Pain was 
also controlled with tylenol and ibuprofen.  Antiemetics were 
provided for nausea, folic acid was continued, and supplemental 
oxygen was provided.  However, her O2 sat was >93% for the 
majority of her hospitalization.  Her pain improved and 24 hours 
prior to discharge she required a decreased amount of dilaudid 
(6 mg) compared to 8 mg IV per 24 hour period when she was 
initially admitted. 
.
Per ___ hematologists, Dr. ___ Dr. ___ 
does definitely have sickle cell anemia.  One electrophoresis 
was completed at ___ ___ showed a falsely elevated 
HgbA (53.1%) after transfusion and she was incorrectly thought 
to have sickle cell trait.  A repeat electrophoresis at ___ 
confirmed sickle cell disease. The last electrophoresis at 
___ (___) showed HgbA 9%, HgbA2 2.5%, HgbF 33.9%, HgS 
54.6%, which was compatible with SS homozygote. Per her primary 
hermatologist, her last crisis was 2.5 months ago.  The patient 
had been off hydrea as an outpatient as last HgF was 33.9% at 
___ on ___ and it was unclear if patient would benefit 
from further elevation of HbF to ___ serum hemoglobin level.  A 
hemoglobin F level was pending upon discharge.  The patient may 
benefit from  restarting hydroxyurea if the hemoglobin F level 
is decreased.  The ___ laboratory may be reached at 
___ to followup this result.
.
2. Left-sided hemiparesis (improving).
CVA rule out on ___ a code stroke was called and all imaging 
was negative for CVA.  Neurology consults, psychiatry 
consultants, and the primary team felt that the presentation was 
consistent with the patient's long h/o malingering.  Unlikely 
that L-sided hemiparesis represents ___ paralysis as it has 
persisted now >24 hours.  Also on physical exam, when examining 
L-sided weakness patient protects face when hand dropped over 
face, i.e. hand does not fall in gravity-dependent fashion. 
Therefore, it is felt that the hemiparesis likely has some 
psychiatric overlay.   Munchausen's has been documented by the 
patient's psychiatrist (Dr. ___ at ___) per 
Dr. ___ (___) her internist at ___ 
___.  Per psych eval this hospitalization, 
malingering vs. factitous d/o was thought to be the underlying 
etiology of her presentation.  The neuro exam was monitored 
closely with left-sided weakness improving daily.
.
3. Possible coagulase negative staphylococcus bacteremia with 
indwelling venous catheter
The patient had positive blood cultures (coagulase negative 
staph) from her port-a-cath, first at ___ (1 
culture from port-a-cath on ___.  For ___ 
cultures, bacteria sensitive to chlorampenicol, gentamicin, 
TMP-SMX, Tetracycline, and vancomycin. Repeat blood cultures 
from line at ___ on ___ growing Coagulase negative 
staphylococcus bacteremia on ___ and ___.  Per primary 
internist, patient has had port-a-cath for ___ years d/t 
frequent pain crises and poor access.  A course of vancomycin 
for 14 days was recommended.  She will complete the IV 
antibiotics on ___.  The plan was to treat the patient 
through the line infection (i.e. not remove port-a-cath) and 
monitor survellience blood cultures as the patient had no signs 
of a systemic infection and will need access given her current 
pain crises.  The ___ laboratory may be reached at 
___ to followup the pending blood cultures (see micro 
results above).  Note that a second blood culture (drawn from 
the port-a-cath) has grown coag neg staph as well - however the 
sensitivity profile suggests an alternate organism than 
initially isolated, thus likely to represent a contaminated 
blood culture sample.
.
4. Elevated LFTs: Elevated LFTs were possibly secondary to 
medications (eg dilantin) and trended down throughout the 
patient's hospitalization. Repeat HCV ab negative here.  Per OMR 
pt had negative HCV antibody ___ despite pt reporting h/o HCV.  
LFTs
should be followed closely and worked up as an outpatient.  Her 
LFT abnormalities were discussed with her primary internist at 
___.
.
5. Depression/Suicidality/Psychosis: Pt contracted for safety 
and denied SI/HI on this admission.  She has been hospitalized 
and ___ for depression/SI.  Risperadol per 
psych recs was begun for AH. 
.
6. PE: Pt has history of PE ___, she was discharged ___ on 
lovenox, not currently taking at psych facility. Per primary 
team at ___ scan was equivocol at ___ when PE was 
diagnosed. Subcutaneous heparin was continued throughout the 
patient's stay.
.
7. Asthma: Continue albuterol and fluticasone
.
8. Seizure disorder: Continue phenytoin, check level.
.
9.  FEN/Lytes: Regular diet, repleted lytes prn. IVF as above.
.
10. Prophylaxis: Heparin SC 5000 tid and a bowel regimen were 
provided.
.
11. Code status: FULL CODE

 
Medications on Admission:
Citalopram 40mg PO QAM  
Folic Acid 1mg PO QAM  
Omeprazole 20mg PO QAM  
Phenytoin 100mg PO TID  
Senna  
Docusate  
Simvastatin 10mg PO daily  
Fluticasone HFA 2 puffs BID  
MVI  
Acetaminophen 650mg PO Q4 hours prn pain  
Diphenhydramine 25mg PO QHS prn insomnia  
Guaifenesin prn cough  
Ibuprofen 400mg PO Q4 prn pain  
Loperamide 2mg PO daily prn diarrhea  
Vistaril 50mg PO Q6 prn anxiety  

 
Discharge Medications:
1. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).  
2. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
3. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO QAM (once a 
day (in the morning)).  
4. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Phenytoin Sodium Extended 100 mg Capsule Sig: One (1) Capsule 
PO TID (3 times a day).  
6. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
8. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).  
9. Hexavitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
10. Hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q4H (every 
4 hours) as needed.  
11. Risperidone 1 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
12. Vancomycin 1,000 mg Recon Soln Sig: 750 mg  Intravenous 
twice a day for 7 days: Day 1 of vancomycin: ___ in ___.  
Will complete 2 week course on ___ in AM.  
13. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
14. Loperamide 2 mg Capsule Sig: One (1) Capsule PO once a day 
as needed for diarrhea.  
15. Diphenhydramine HCl 25 mg Tablet Sig: One (1) Tablet PO at 
bedtime as needed for insomnia.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary
Sickle cell anemia with pain crisis
Malingering
.
Secondary
Depression
Post traumatic stress disorder 

 
Discharge Condition:
Hemodynamically stable, afebrile.

 
Discharge Instructions:
You were admitted to the hospital with a sickle cell pain 
crisis.  You were treated with intravenous (IV) dilaudid and IV 
fluids, and your pain improved.  Your pain regimen was then 
switched to oral dilaudid.  You remained stable throughout your 
stay.  You had some left-sided weakness; however, a thorough 
workup to evaluate for stroke was negative.  Your left-sided 
weakness improved.  Our psychiatrists saw you in the hospital 
and recommended a new medication, risperdal, for your auditory 
hallucinations.  Your port-a-cath was found to be infected with 
a bacteria that typically grows on your skin.  You were started 
on a 2 week course of IV antibiotics.

Please keep all followup appointments. 
 
. 
 
Please call your doctor or return to the emergency room if you 
have any of the following: 
 
* You experience new chest pain, pressure, squeezing or 
 
tightness. 
 
* New or worsening cough or wheezing. 
 
* If you are vomiting and cannot keep in fluids or your 
 
medications. 
 
* You are getting dehydrated due to continued vomiting, 
 
diarrhea or other reasons. Signs of dehydration include dry 
 
mouth, rapid heartbeat or feeling dizzy or faint when standing. 
 
* You see blood or dark/black material when you vomit or have a 
 
bowel movement. 
 
* Your pain is not improving within ___ hours or not gone 
 
within 24 hours. Call or return immediately if your pain is 
 
getting worse or is changing location or moving to your chest or 

 
back. 
 
* You have shaking chills, or a fever greater than 100.5 (F) 
 
degrees or 38(C) degrees. 
 
* Any serious change in your symptoms, or any new symptoms that 
 
concern you. 
 
* Please take all medications including any new medications
 
as ordered.  
.
* NEW MEDICATION: Risperdal for auditory hallucinations.  
Dilaudid (oral) was provided for pain crisis on a PRN basis.
* DISCONTINUED MEDICATION: Vistaril was not required for anxiety 
on this hospitalization.  It may be restarted on an as needed 
basis.
 
Followup Instructions:
___